US09403818B2
Preparation of methyl 8-(3-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (45 mg, 0.15 mmol) was dissolved in toluene (330 μL), ethanol (96%) (243 μL) and 2M aqueous sodium carbonate solution (231 μL, 0.463 mmol). tert-Butyl 2-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-3-ylcarbamate (78 mg, 0.20 mmol) was added and the mixture was degassed with argon. 1,1′-Bis(diphenylphosphino)-ferrocene palladium(II) dichloride (11.3 mg, 0.015 mmol) was added and the mixture was heated at 80° C. under an argon atmosphere for 16 h. After cooling, the mixture was diluted with DCM (3 mL) and water (3 mL) and the layers were separated. The aqueous layer was extracted with DCM (3×2 mL). The combined organic layers were concentrated and the yellow crude product was purified with flash silica column chromatography (heptane/ethyl acetate) (1:0 to 0:1) to afford the title compound as a yellow solid (43 mg, 53%).

reactant | Methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.15 mmol, 45 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | ethanol | 243 μL | C(C)O | C2H6O
reactant | sodium carbonate | 0.463 mmol, 2M, 231 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-Butyl 2-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-3-ylcarbamate | 0.20 mmol, 78 mg | O=C1NC2=CC(=CC=C2CC1NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C20H29BN2O5
solvent | toluene | 330 μL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 3 mL | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)-ferrocene palladium(II) dichloride | 0.015 mmol, 11.3 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 8-(3-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 43 mg, 53% | C(C)(C)(C)OC(=O)NC1C(NC2=CC(=CC=C2C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)=O | C29H31N3O6
